US04958033
In the same flask as in Example 1, there were charged granular magnesium (18.2 g), dry zinc chloride (20.4 g) and dry tetrahydrofuran (220 g). Propargyl chloride (0.55 g) was added thereto at 10° C. while stirring. The resultant mixture was kept in an adiabatic condition, whereupon the reaction proceeded. When the heat generation stopped, a mixture of 5-methylfurfural (55.06 g), propargyl chloride (38.6 g), propargyl bromide (11.9 g) and toluene (55 g) was dropwise added to the reaction mixture at 30° C. in 6 hours while stirring under cooling. The resultant mixture was kept at room temperature for 30 minutes while stirring. After completion of the reaction, the reaction mixture was treated in the same manner as in Example 1 to give 2-(1-hydroxy-3-butynyl)-5-methylfuran (64.4 g) in a yield of 86% (based on the starting 5-methylfurfural).

reactant | magnesium | 18.2 g | [Mg] | Mg
reactant | 5-methylfurfural | 55.06 g | CC1=CC=C(C=O)O1 | C6H6O2
reactant | propargyl chloride | 38.6 g | C(C#C)Cl | C3H3Cl
reactant | propargyl bromide | 11.9 g | C(C#C)Br | C3H3Br
catalyst | zinc chloride | 20.4 g | [Cl-].[Zn+2].[Cl-]
catalyst | Propargyl chloride | 0.55 g | C(C#C)Cl | C3H3Cl
solvent | toluene | 55 g | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 220 g | O1CCCC1 | C4H8O
product | 2-(1-hydroxy-3-butynyl)-5-methylfuran | 64.4 g, yield of 86% | OC(CC#C)C=1OC(=CC1)C | C9H10O2
